US04450162
4-Anilino-6,7-dihydro-5H-cyclopenta[d]pyrimidine hydrochloride (Compound No. 2)
To 3.1 g (0.02 mole) of 4-chloro-6,7-dihydro-5H-cyclopenta[d]pyrimidine were added 4.7 g (0.05 mole) of aniline and about 10 ml of ethanol; the mixture was then heated at 100° C. for about 10 minutes; the mixture quickly became a solution and then soon produced crystals. The mixture was then heated for a further 5 minutes, after which it was allowed to cool. The crystals produced were collected by filtration and then recrystallised from ethanol, to give 2.9 g (yield 59%) of the desiredCompound No. 2, in the form of yellow needles melting at 220° C. (with decomposition).

reactant | 4-chloro-6,7-dihydro-5H-cyclopenta[d]pyrimidine | 0.02 mole, 3.1 g | ClC=1C2=C(N=CN1)CCC2 | C7H7ClN2
reactant | aniline | 0.05 mole, 4.7 g | NC1=CC=CC=C1 | C6H7N
solvent | ethanol | about 10 ml | C(C)O | C2H6O
product | 4-Anilino-6,7-dihydro-5H-cyclopenta[d]pyrimidine hydrochloride | yield 59% | Cl.N(C1=CC=CC=C1)C=1C2=C(N=CN1)CCC2 | InChI=1S/C13H13N3.ClH/c1-2-5-10(6-3-1)16-13-11-7-4-8-12(11)14-9-15-13;/h1-3,5-6,9H,4,7-8H2,(H,14,15,16);1H
